US04350702
5,6-Dimethoxy-2[β-(2-pyridyl)ethyl]-1,2-benzisothiazol-3-one
To a suspension of 4,4',5,5'-tetramethoxy-2,2'-dithiodibenzoylchloride (2.0 g, 4.32 mmole) in dry ether (100 ml) containing pyridine (4 ml) was added 2-(2-aminoethyl)pyridine (1.60 g. 13.0 mmole) in dry ether (50 ml) dropwise with stirring at room temperature. The mixture was stirred for 1 hour and allowed to stand for 18 hours before the solvent was evaporated under reduced pressure. A solution of the residue in dichloromethane was washed with water and then shaken with 2 N hydrochloric acid. The acid layer was basified with 10% aqueous sodium hydroxide solution and the mixture was extracted twice with dichloromethane. The organic extracts were combined and dried over magnesium sulphate. Removal of the solvent gave a yellow solid which was recrystallised from isopropanol yielding the product 6 as cream coloured needles (1.18 g, 43%) m.p. 154.5°-156.5°.

reactant | 4,4',5,5'-tetramethoxy-2,2'-dithiodibenzoylchloride | 4.32 mmole, 2.0 g | COC1=CC(=C(C(=O)Cl)C=C1OC)SSC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C18H16Cl2O6S2
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-aminoethyl)pyridine | 13.0 mmole, 1.60 g | NCCC1=NC=CC=C1 | C7H10N2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5,6-Dimethoxy-2[β-(2-pyridyl)ethyl]-1,2-benzisothiazol-3-one | COC=1C(=CC2=C(C(N(S2)CCC2=NC=CC=C2)=O)C1)OC | C16H16N2O3S
